US04710508
Preparation of 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)-1-propanone O-(phenylmethyl)oxime
Examploying the general method of Example 5 above, but starting with 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)-1-propanone and O-(phenylmethyl)hydroxylamine hydrochloride, the title compound was prepared in 82% yield and isolated as the ethanedioate salt, mp 137°-139° C.

reactant | 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)-1-propanone | CN1CC(=CCC1)C(CC)=O | C9H15NO
reactant | O-(phenylmethyl)hydroxylamine hydrochloride | Cl.C1(=CC=CC=C1)CON
product | 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)-1-propanone O-(phenylmethyl)oxime | 82% yield | C1(=CC=CC=C1)CON=C(CC)C=1CN(CCC1)C | C16H22N2O
